US08835420B2
2,4-Diamino-6-(((1S)-1-(6-(3,5-dimethyl-1H-pyrazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(1S)-1-(6-(3,5-Dimethyl-1H-pyrazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride (123 mg, 0.403 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (82 mg, 0.484 mmol), and N-ethyl-N-isopropylpropan-2-amine (211 μL, 1.21 mmol) were combined in acetonitrile (4030 μL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated in vacuo. The residue was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 30% ACN in water. The fractions containing the desired product were combined, concentrated, and lyophilized to give the title compound as an off-white solid (89 mg, 55%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.12 (d, J=6.35 Hz, 3 H), 1.92 (br s, 3 H), 2.06 (br s, 3 H), 3.82 (s, 3H), 5.20 (br s, 1 H), 6.43 (br s, 2 H), 6.53-6.60 (m, 3 H), 6.96 (br s, 1 H), 7.62-7.69 (m, 2H), 12.36 (br s, 1 H); ESI-MS m/z [M+H]+ calc'd for C26H22N10, 403; found 403.

reactant | (1S)-1-(6-(3,5-Dimethyl-1H-pyrazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride | 0.403 mmol, 123 mg | Cl.CC1=NNC(=C1C=1C=C2C(=NC1[C@H](C)N)C=CN2C)C
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 0.484 mmol, 82 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.21 mmol, 211 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 4030 μL | C(C)#N | C2H3N
product | 2,4-Diamino-6-(((1S)-1-(6-(3,5-dimethyl-1H-pyrazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 89 mg, 55% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2C(=NNC2C)C | C20H22N10
